US07455959B2
2-(2,4-Di-t-pentylphenoxy)ethanoic acid (12.0 g, 0.041 mol) (CAS Registry Number 13402-96-5) and thionyl chloride (60 ml) were heated under reflux on a steam-bath for 1.5 h. The resulting yellow solution was allowed to cool before being distilled under reduced pressure to remove volatiles. The residue was dissolved in 60-80 petroleum-ether (200 ml) and the solution was distilled under reduced pressure to remove any remaining traces of volatiles, leaving 2-(2,4-di-t-pentyl-phenoxy)ethanoyl chloride as a red oil which was used without further purification.

reactant | 2-(2,4-Di-t-pentylphenoxy)ethanoic acid | 0.041 mol, 12.0 g | C(C)(C)(CC)C1=C(OCC(=O)O)C=CC(=C1)C(C)(C)CC | C18H28O3
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(2,4-di-t-pentyl-phenoxy)ethanoyl chloride | C(C)(C)(CC)C1=C(OCC(=O)Cl)C=CC(=C1)C(C)(C)CC | C18H27ClO2
